US04474779
A mixture of about 40 ml of isobutene, 40 g of 2-bromo-2-methylbutyric acid, 1 ml of concentrated sulfuric acid, and 20 ml of dry ethyl ether was reacted in a closed tube overnight at room temperature. After the reaction was over, the reaction mixture was dispersed in a mixture of 150 ml of ice-water and 10 g of sodium hydrogencarbonate and extracted with 200 ml and then 100 ml of ether. The organic layers were collected, washed twice each time with 50 ml of water and then once with 50 ml of a saturated aqueous sodium chloride solution, and after drying with anhydrous magnesium sulfate, ether was distilled off to provide 36.3 g of tert-butyl 2-bromo-2-methylbutyrate.

reactant | isobutene | about 40 ml | C=C(C)C | C4H8
reactant | 2-bromo-2-methylbutyric acid | 40 g | BrC(C(=O)O)(CC)C | C5H9BrO2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | sodium hydrogencarbonate | 10 g | C(O)([O-])=O.[Na+]
product | tert-butyl 2-bromo-2-methylbutyrate | 36.3 g | BrC(C(=O)OC(C)(C)C)(CC)C | C9H17BrO2
